US06399629B1
(D) trans-4-Azido-N-tert-Butoxycarbonyl-L-Proline 3-Quinolyilamide
Sodium azide (206 mg) was added to a stirred solution of N-tert-butoxycarbonyl-cis-4-p-toluenesulfonyloxy-L-proline 3-quinolylamide (C, 805 mg) in N,N-dimethylformamide (8 mL)-water (1.5 mL). After sting at 70° C. for 4 hr, the solvents were removed in vacuo. The residue was diluted with ethyl acetate, and washed with water and brine. The organic layer was dried over anhydrous sodium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform:ethyl acetate=1:1 to 1:2, v/v) to afford the title compound (532 mg) as a pale yellow sticky oil: 1H NMR (400 MHz, CD3OD) δ 1.3-1.5 (m, 9H), 2.32 (m, 1H), 2.47 (m, 1H), 3.63 (m, 1H), 3.72 (m, 1H), 4.38 (m, 1H), 4.48 (m, 1H), 7.60 (m, 1H), 7.69 (m, 1H), 7.90 (m, 1H), 7.98 (m, 1H), 8.72-8.75 (m, 1H), and 8.92-8.93 (m, 1H).

reactant | Sodium azide | 206 mg | [N-]=[N+]=[N-].[Na+]
reactant | N-tert-butoxycarbonyl-cis-4-p-toluenesulfonyloxy-L-proline 3-quinolylamide | 805 mg | N1=CC(=CC2=CC=CC=C12)NC([C@H]1N(C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OC(C)(C)C)=O | C26H29N3O6S
reactant | water | 1.5 mL | O | H2O
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | trans-4-Azido-N-tert-Butoxycarbonyl-L-Proline | 532 mg | N(=[N+]=[N-])[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C10H16N4O4
